US04816463
Methyl-1-(3-trifluoromethylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate
A solution of 1.4 g 3-trifluoromethylbenzyl chloride, 3.0 g methyl-5-diphenylacetyl-3-(2-oxo-2-phenylethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate and 20 mL acetonitrile is heated at reflux 16 hr. An additional 1.4 mL 3-trifluoromethylbenzyl chloride is added and refluxing continued 24 hr. The cooled solution is added dropwise to 400 mL vigorously stirred ether and the resulting precipitate is collected by filtration. This precipitate is dissolved in 60 mL methanol and treated with 10 g zinc dust and 60 mL acetic acid. The resulting suspension is sonicated 2 hr then the solution is filtered from excess zinc. The filtrate is dissolved in 400 mL dichloromethane and treated dropwise with 520 mL 10% Na2CO3 with vigorous stirring. The organic phase is separated, dried, concentrated and the major product is isolated by chromatography on silica gel (chloroform-methanol, 99.5:0.5) as a crisp foam. NMR (CDCl3) 5.05 (s, 2H, NCH2Ar).

reactant | 3-trifluoromethylbenzyl chloride | 1.4 g | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | methyl-5-diphenylacetyl-3-(2-oxo-2-phenylethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | 3.0 g | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N(CN2)CC(C2=CC=CC=C2)=O | C30H29N3O4
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | 3-trifluoromethylbenzyl chloride | 1.4 mL | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
solvent | ether | CCOCC | C4H10O
product | Methyl-1-(3-trifluoromethylphenyl)methyl-5-diphenylacetyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine-6-carboxylate | COC(=O)C1CC2=C(CN1C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)N=CN2CC2=CC(=CC=C2)C(F)(F)F | C30H26F3N3O3
